US07354934B2
To a stirred solution of 2-{4-[(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione (60 mg, 0.118 mmol) in ethanol (2.5 mL) was added hydrazine hydrate (0.05 mL, 1.03 mmol) and the mixture stirred at room temperature for 16 hours. The mixture was then diluted with diethyl ether, dried (MgSO4), filtered and concentrated under reduced pressure to give a crude yellow oil. The oil was purified by flash chromatography (1.75 cm ID, 12 g silica, 10:1:1 CH2Cl2: MeOH: NH4OH) to give pure N1-(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (18 mg, 38%). 1H NMR (CDCl3) δ 1.30-1.46 (m, 4H), 1.60-1.75 (m, 1H), 1.82-1.96 (m, 1H), 1.98-2.08 (m, 1H), 2.14-2.24 (m, 1H), 2.35 (s, 6H), 2.47-2.59 (m, 3H), 2.65-2.90 (m, 3H), 3.92-4.06 (m, 3H), 7.13 (dd, 1H, J=7.9, 4.8 Hz), 7.34 (s, 2H), 7.40 (d, 1H, J=7.1 Hz), 8.58 (s, 1H, J=3.5 Hz).

reactant | 2-{4-[(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 0.118 mmol, 60 mg | CC1=CC2=C(NC(=N2)CN(CCCCN2C(C3=CC=CC=C3C2=O)=O)C2CCCC=3C=CC=NC23)C=C1C | C31H33N5O2
reactant | hydrazine hydrate | 1.03 mmol, 0.05 mL | O.NN
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N1-(5,6-dimethyl-1H-benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 18 mg, 38% | CC1=CC2=C(NC(=N2)CN(CCCCN)C2CCCC=3C=CC=NC23)C=C1C | C23H31N5
